US07659268B2
Tributyl(vinyl)stannane (50 g, 0.16 mol), Pd(Ph3P)4 (3.3 g, 2.9 mmol) and a catalytic amount of 2,6-t-butyl-4-methylphenol was added to a solution of N-(5-bromopyridin-2-yl)pivalamide (36 g, 0.14 mol) in toluene. The reaction mixture was heated at reflux for 48 h. The solvent was evaporated in vacuo and the residue was purified by chromatography on silica gel (5% EtOAc in petroleum ether) to afford N-(5-vinylpyridin-2-yl)pivalamide (23 g, 80% yield). 1H NMR (CDCl3, 300 MHz) δ 8.24-8.20 (m, 2H), 8.02 (br s, 1H), 7.77 (dd, J=8.7 and 2.4, 1H), 6.65 (dd, J=17.7 and 10.8, 1H), 5.73 (d, J=17.7, 1H), 5.29 (d, J=10.8, 1H), 1.32 (s, 9 H).

reactant | Tributyl(vinyl)stannane | 0.16 mol, 50 g | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | N-(5-bromopyridin-2-yl)pivalamide | 0.14 mol, 36 g | BrC=1C=CC(=NC1)NC(C(C)(C)C)=O | C10H13BrN2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(Ph3P)4 | 2.9 mmol, 3.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(5-vinylpyridin-2-yl)pivalamide | 23 g, 80% yield | C(=C)C=1C=CC(=NC1)NC(C(C)(C)C)=O | C12H16N2O
